US05559105
a) Methyl(2RS)-3,3-Diphenyl-3-hydroxy-2-(3,4-methylenedioxybenzyl)propanoate
To a solution of di-isopropylamine (0.52 ml, 3.69 mmol) in dry THF (3 ml) at 0° C. under argon was added n-BuLi in hexane (1.36 ml, 2.5 M, 3.4 mmol). After stirring for 40 min the solution was cooled to -78° C. and a solution of methyl 3-(3,4-methylenedioxyphenyl)-propanoate (0.592 g, 2.84 mmol) in dry THF (2 ml) was added dropwise over 7 min. After a further 2 min a solution of benzophenone (0.517 g, 2.84 mmol) in dry THF (2 ml) was added dropwise. After a further 30 min at -78° C. the mixture was warmed to 0° C. over 30 min and poured into 1M aqueous HCl. The product was extracted with EtOAc (3X). The combined organic extract was washed with water (2X) then brine. After drying (Na2SO4 anhydrous), filtration and evaporation gave an off-white solid. Recrystallization from hot hexane gave the title compound (0.835 g, 76% yield) as a colorless solid.

reactant | di-isopropylamine | 3.69 mmol, 0.52 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 3.4 mmol, 2.5 M, 1.36 ml | CCCCCC | C6H14
reactant | methyl 3-(3,4-methylenedioxyphenyl)-propanoate | 2.84 mmol, 0.592 g | C1OC=2C=C(C=CC2O1)CCC(=O)OC | C11H12O4
reactant | benzophenone | 2.84 mmol, 0.517 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | HCl | 1M | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | Methyl(2RS)-3,3-Diphenyl-3-hydroxy-2-(3,4-methylenedioxybenzyl)propanoate | 0.835 g, 76% yield | C1(=CC=CC=C1)C(C(C(=O)OC)CC1=CC2=C(C=C1)OCO2)(O)C2=CC=CC=C2 | C24H22O5
